data/mechanism_extracts/JOC/10.1021_acs.joc.4c02481.json
{"doi": "10.1021_acs.joc.4c02481", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical reductive bimolecular cycloaddition of 2-arylidene-1,3-indanediones to give spirocyclopentanol indane-1,3-diones with five contiguous stereocenters.", "mechanism_family": ["radical_cathodic", "radical_anion", "paired_electrolysis"], "electrochemical_role": "Cathodic single-electron reduction of 2-arylidene-1,3-indanedione (1a) to a radical anion (A) on the Pt cathode; the anode performs counter oxidation of hydroxide to O2/H2O.", "key_intermediates": [{"name": "radical anion A of 2-benzylidene-1,3-indanedione (ketyl-type, radical on benzylic C)", "smiles": null, "role": "reactive"}, {"name": "tautomerized radical anion A' (radical on the indanedione enolate carbon)", "smiles": null, "role": "reactive"}, {"name": "radical adduct B from C-C coupling of A' with a second molecule of 1a", "smiles": null, "role": "transient"}, {"name": "anion C / C' from second cathodic reduction of B", "smiles": null, "role": "reactive"}, {"name": "alkoxide/enolate D after intramolecular aldol cyclization", "smiles": null, "role": "transient"}], "electron_flow": "At the Pt cathode, 1a is reduced by one electron to radical anion A (Ered = -1.06 V vs Ag/AgCl in the combined electrolyte, lower than with either electrolyte alone); A tautomerizes to A' which adds to a second 1a to give radical B; a second cathodic SET reduces B to anion C/C', which undergoes intramolecular aldol closure to D and is protonated by water to deliver 2a, while hydroxide is oxidized at the carbon anode to O2 + H2O.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely shut down (0% of 2a), indicating radical intermediates."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield of 2a dramatically decreased to 27%."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Yield of 2a decreased to 19%."}, {"name": "cyclic voltammetry of 1a", "smiles": null, "purpose": "redox_probe", "observation": "Reduction peak at -1.06 V under standard conditions (Bu4NBF4 + Bu4NOTs), versus -1.25 V with only Bu4NBF4 and -1.38 V with only Bu4NOTs, showing combined electrolytes lower the reduction potential of 1a."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Control experiments confirm both current and electrolyte are required (0% without either). Water modestly improves yield (60% without water vs 72% standard), attributed to conductivity/solubility and serving as proton source for D -> 2a. X-ray (CCDC 2383755) confirms the spirocyclic product structure. No DFT or KIE studies were reported; mechanism is proposed by analogy to prior electroreductive radical-radical/radical-anion couplings (refs 12,13)."}
